US03948958
The 1-methoxy-2-methyl-4-benzyloxynaphthalene, in an amount of 925 milligrams, is added to a mixture of 286 milligrams of a 10 percent palladium/carbon catalyst in 20 milliliters of ethyl acetate. The resultant mixture is subjected to hydrogenolysis by contact with a mixture of hydrogen and nitrogen at atmospheric pressure for 38 hours. Subsequent to the hydrogenolysis, the catalyst is removed by centrifugation, and the crude product is obtained by solvent evaporation. Crystallization of the product from benzene/petroleum ether gives 4-methoxy-3-methyl-1-naphthol in an amount of 473 milligrams.

reactant | 1-methoxy-2-methyl-4-benzyloxynaphthalene | COC1=C(C=C(C2=CC=CC=C12)OCC1=CC=CC=C1)C | C19H18O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | [Pd] | Pd
solvent | ethyl acetate | 20 milliliters | C(C)(=O)OCC | C4H8O2
product | 4-methoxy-3-methyl-1-naphthol | COC1=C(C=C(C2=CC=CC=C12)O)C | C12H12O2
